Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
agitation, dehydration
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old ___ speaking female with metastatic colon 
cancer, on home hospice, recently admitted to ___ for ostomy 
leakage. A family meeting was held at last admission with 
patient and daughter with agreed plan for no further aggressive 
measures. The patient was continued on fentanyl patch, zofran 
prn, oxycodone PRN and Zyprexa bid with plan for patient to 
return to home with hospice care.  

The patient is now brought to the ___ by family because of 
increasingly agitated behavior and fear on families part to give 
Zyprexa and Ativan as it makes the patient sleepy. In the ___ lab 
testing was performed revealing ARF with Cr of 8.1 from baseline 
near 1. A CXR was performed revealing worsening bilateral 
effusions. Per discussion with the ___, the patient was being 
admitted to the floor with request for IV fluids and antibiotics 
as necessary but no other aggressive measures including no foley 
catheter. It was discussed with ___ that patient would not be 
admitted to MICU in setting of decompensation with report that 
family is agreeable to this plan and understands patient's 
decompensation.
 
Past Medical History:
Colon ca, metastatic
peritoneal carcinomatosis
HTN
migraines
OA (low back)  
.
Past Surgical History: 
appendectomy ___, ___
R colectomy ___, ___
diverting loop ileostomy ___, ___  
thoracentesis for symptomatic relief of dyspnea (___)
 
Social History:
___
Family History:
Daughter with SCC of lung.
 
Physical Exam:
Vitals: BP: 82/60 HR: 70 RR: 22 O2: 94% 2L
General: Elderly female, cachectic, groans to painful stimuli  
HEENT: Cahcectic, dry MM  
Chest: Relatively Clear ant, crackles at lateral bases  
Cor: RRR  
Abdomen: hard, palpable nodules underskin including large one 
near right flank, small wound with surrounding erythema and some 
drainage 
Extremities: petechiae over feet bilaterally 
 
Pertinent Results:
___ (CXR): There has been interval increase in interstitial 
opacities, consistent with worsening CHF. Moderate-to-large 
layering bilateral pleural effusions also appear increased 
compared to prior study. Cardiac silhouette not well assessed on 
this study secondary to basilar opacities. Retrocardiac opacity 
possibly represents atelectasis, although focal consolidation 
cannot be excluded. A tortuous aorta again noted. Scoliosis 
appears unchanged from prior.

___ 08:21PM   GLUCOSE-104 UREA N-169* CREAT-8.1*# 
SODIUM-136 POTASSIUM-3.6 CHLORIDE-81* TOTAL CO2-30 ANION GAP-29*
___ 08:21PM   cTropnT-0.24*
___ 08:21PM   CALCIUM-8.5 PHOSPHATE-11.7*# MAGNESIUM-2.4
___ 08:21PM   WBC-10.7# RBC-4.10* HGB-10.6* HCT-33.8* 
MCV-83 MCH-25.9* MCHC-31.4 RDW-15.3
 
Brief Hospital Course:
Patient is a ___ year old female with metastatic colon cancer on 
home hospice admitted for increasing agitation and dehydration.  
The patient was being taken care of at home by her husband, 
daughter and hospice nurses.  ___ has had some increasing 
agitation and disinterest in oral intake, leading her daughter 
to bring her into the hospital.  She was initially given 
intravenous fluids.
. 
Her daughter, ___, who is her healthcare proxy came in on the 
day after admission for a family meeting with the team and 
social workers.  At that meeting it was decided the best course 
of action was to continue with comfort care, as previously 
decided.  
. 
#Agitation:  The agitation was most likely related to terminal 
disease and azotemia from ARF found on lab studies drawn in the 
emergency department.  The patient was continued on Ativan and 
Zyprexa to decrease agitation.  As pain control may have been 
contributing to her agitation, the patient was placed on Tylenol 
and morphine PRN for grimacing, increased HR/RR or any other 
evidence of pain.  The palliative care team was also consulted 
to help with symptom management.  
.  
#ARF:  The patient was found to have an elevated creatinine from 
her baseline on labs checked in the ___.  There is a likely 
component of prerenal from poor PO intake vs. renal, possibly 
obstructive from intraabdominal process. Per family request,  
the patient received IVF briefly. She did not have a Foley 
placed as this was against the family's wishes. 
.  
#Metastatic Colon Cancer: The patient was on home hospice. She 
was brought in partly because of difficulty in watching patient 
become agitated.  She was treated for pain with Tylenol RTC and 
Morphine PRN for grimacing, increased HR/RR or any other 
evidence of pain.  She was also started on a scopolamine patch 
to decrease secretions.  Her secretions were treated with 
scopolamine patch and Levsin as well as oxygen by nasal cannula 
for comfort. 

The patient was made comfort measures only and medications as 
above were started.
She died with her daughter at her bedside.

  

 
Medications on Admission:
Fentanyl 25 mcg/hr Patch 72 hr  
Fentanyl 12 mcg/hr Patch 72 hr  
Psyllium 1.7 g Wafer PO tid  
Ipratropium Bromide 17 mcg 2 puffs qid  
Oxycodone 5 mg q 4hr PRN  
Ondansetron 4 mg q8 PRN  
Lorazepam 0.5 mg q 4hr PRN  
Acetaminophen 325 mg q 6hr PRN  
Miconazole 2% Powder PRN  
Olanzapine 5 mg Tablet, Rapid Dissolve PO bid PRN Nausea 
 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
#Metastatic colon cancer
Secondary diagnosis:
#HTN
#OA

 
Discharge Condition:
Patient expired

 
Discharge Instructions:
N/A

 
Followup Instructions:
___